US08067447B2
Methyl 3-(1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)-2,2-dimethylpropanoate (87 mg, 0.236 mmol) was heated to 100 C overnight in a mixture of 2 M NaOH/MeOH/DMSO (1:1:1). The next day, the reaction was cooled, acidified to pH 5 with HCl and extracted 2×EtOAc. The organic layers were washed with water×2, dried over MgSO4, filtered, and concentrated in vacuo to give 83 mg (99% yield) of acid 3-(1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)-2,2-dimethylpropanoic acid. MS found: (M+H)+=355.

reactant | Methyl 3-(1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)-2,2-dimethylpropanoate | 0.236 mmol, 87 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C(C)C)CC(C(=O)OC)(C)C | C22H25FN2O2
reactant | HCl | Cl | ClH
solvent | NaOH MeOH DMSO | 2 M | [OH-].[Na+].CO.CS(=O)C
product | 3-(1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)-2,2-dimethylpropanoic acid | 83 mg, 99% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C(C)C)CC(C(=O)O)(C)C | C21H23FN2O2
